US07538111B2
4-[(4-ethyl-1-piperazinyl)methyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester
In operating analogously to preparation LXXIII, starting with N-ethylpiperazine and the t-butyl ester of 4-formyl-1-piperidinecarboxylic acid, the product sought after is obtained as a colourless oil (yield=78%).

reactant | N-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
reactant | 4-formyl-1-piperidinecarboxylic acid | C(=O)C1CCN(CC1)C(=O)O | C7H11NO3
product | 4-[(4-ethyl-1-piperazinyl)methyl]-1-piperidinecarboxylic acid, 1,1-dimethylethyl ester | yield=78% | C(C)N1CCN(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C17H33N3O2
